US09029391B2
2-((8-fluoro-5-methylchroman-6-yl)methyl)benzoic acid
A mixture of 2-(8-fluoro-5-methylchroman-6-carbonyl)benzoic acid (673 mg, 2.141 mmol) in acetic Acid (15 mL) was treated with Pd/C (60.0 mg) and the mixture was stirred under 50 psi of hydrogen at 65° C. until the reaction was judged complete by LCMS. The mixture was filtered over Celite and the filtrate was concentrated to give the title compound as a white solid: 1H NMR (400 MHz, DMSO-d6) δ ppm 1.80-2.05 (m, 5 H), 2.63 (t, J=6.44 Hz, 2 H), 3.95-4.15 (m, 2 H), 4.24 (s, 2 H), 6.57 (d, J=12.29 Hz, 1 H), 6.95 (d, J=7.61 Hz, 1 H), 7.21-7.34 (m, 1 H), 7.42 (td, J=7.56, 1.27 Hz, 1 H), 7.81 (dd, J=7.71, 1.07 Hz, 1 H), 12.92 (br. s., 1H); LC/MS (m/z) ES+=301 (M+1).

reactant | 2-(8-fluoro-5-methylchroman-6-carbonyl)benzoic acid | 2.141 mmol, 673 mg | FC=1C=C(C(=C2CCCOC12)C)C(=O)C1=C(C(=O)O)C=CC=C1 | C18H15FO4
reactant | hydrogen | [H][H] | H2
solvent | acetic Acid | 15 mL | C(C)(=O)O | C2H4O2
catalyst | Pd/C | 60.0 mg | [Pd] | Pd
product | 2-((8-fluoro-5-methylchroman-6-yl)methyl)benzoic acid | FC=1C=C(C(=C2CCCOC12)C)CC1=C(C(=O)O)C=CC=C1 | C18H17FO3
